data/mechanisms/records/IMS8-EQ8.2a.json
{"mechanism_id": "IMS8-EQ8.2a", "species": [{"species_id": "hexan_2_one_molecular_ion", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2:4][C:5](=[O+:6])[CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acetyl_cation", "mapped_smiles": "[CH3:7][C:5]#[O+:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "n_butyl_radical", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexan_2_one_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["acetyl_cation", "n_butyl_radical"]}], "steps": [{"step_id": "step_alpha_1_1", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_1_1", "support_type": "textbook_proposed", "locator": {"page": 138, "equation": "8.2", "figure": null, "panel": null, "section": "8 Detailed Mechanisms of Ion Fragmentation (Eq. 8.2, arrow 1.1, alpha)"}, "confidence": 0.85, "curator_note": "Radical-site alpha cleavage of the n-ionized 2-hexanone molecular ion (odd electron on carbonyl O6): the alpha C4-C5 bond cleaves and the C5=O6 pi bond becomes the C5#O6+ acylium triple bond, expelling the n-butyl radical and leaving the acetyl (acylium) cation CH3-C#O+ (m/z 43, base peak 100%). Book draws 0 electron-pushing arcs: Eq. 8.2 is a thermochemical fragmentation map (log k printed above each reaction arrow, heats of formation printed below each species), not a curved-arrow figure. All electron moves here are curator-inferred from the mechanism-type label printed under the reaction arrow; none is drawn on the page. Encoded with the canonical THREE fishhooks: move<1> O6 odd electron into the forming C5-O6 pi bond, move<2> one C4-C5 electron into that same pi bond, move<3> the other C4-C5 electron onto C4 (the departing butyl radical)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_43", "species_id": "acetyl_cation", "step_id": "step_alpha_1_1", "observed_mz": 43.0178, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
